US04181722
(a) Preparation of 2-bromo-1-(2H-3-chromenyl)-1-ethanone
3-Acetyl-2H-chromene (0.2 mole) is dissolved in diethyl ether (250 ml) and methanol (10 ml). The solution is cooled to 0°-5° C. Bromine (0.21 mole) is added dropwise thereto, with stirring. The resulting material is left aside 2 hours at room temperature. Anhydrous potassium carbonate (25 g) is then added and the material is evaporated to dryness. The pasty residue is placed in a flask with 600 ml hexane, and is refluxed for 1 hour. The reaction mixture is decanted hot, allowed to cool, and the organic solution is placed in the freezer. Brown-yellow crystals having a sufficient purity for the next step separate out. After two recrystallizations from hexane, a sample gives long pale yellow needles, M.p.=87° C.

reactant | 3-Acetyl-2H-chromene | 0.2 mole | C(C)(=O)C=1COC2=CC=CC=C2C1 | C11H10O2
reactant | Bromine | 0.21 mole | BrBr | Br2
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
product | 2-bromo-1-(2H-3-chromenyl)-1-ethanone | BrCC(=O)C=1COC2=CC=CC=C2C1 | C11H9BrO2
